US06656971B2
1-{3-[(2-Naphthyl)methoxy]-5-nitrobenzoyl}-2-benzoylhydrazine.
To a stirred solution of 3-[(2-naphthyl)methoxy]-5-nitrobenzhydrazide (0.30 g, 0.89 mmol) and triethylamine (0.14 mL, 0.98 mmol) in DMA (25 mL) at room temperature was added benzoyl bromide (0.11 mL, 0.89 mmol), and stirring was continued overnight. Yellowish solution was poured onto ice-water (50 g) and set aside for 24 h. Precipitate formed was filtered, washed with water, and air-dried. Off-white solid, yield 0.34 g (87%). 1H NMR (DMSO-d6, 400 MHz), δ: 10.92 (s, 1H); 10.66 (s, 1H); 8.12-7.89 (m, 8H); 7.67-7.50 (m, 6H); 5.53 (s, 2H).

reactant | 3-[(2-naphthyl)methoxy]-5-nitrobenzhydrazide | 0.89 mmol, 0.30 g | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NN)C=C(C1)[N+](=O)[O-] | C18H15N3O4
reactant | triethylamine | 0.98 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl bromide | 0.89 mmol, 0.11 mL | C(C1=CC=CC=C1)(=O)Br | C7H5BrO
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
product | 1-{3-[(2-Naphthyl)methoxy]-5-nitrobenzoyl}-2-benzoylhydrazine | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NNC(C2=CC=CC=C2)=O)C=C(C1)[N+](=O)[O-] | C25H19N3O5
